US06084095
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (390 mg, 2.03 mmol), 4-aminobenzotrifluoride hydrochloride (0.40 g, 2.02 mmol) and 4-aminobenzotrifluoride (1.61 g, 10.0 mmol) is stirred at 180° C. for 2 min. The resulting product is neutralized with excess NaHCO3, dissolved in MeOH/CHCl3, dried onto alumina and chromatographed over alumina (4-7% MeOH/CH2Cl2) to give 7-amino-4-(4-trifluoromethylanilino)pyrido[4,3-d]pyrimidine (390 mg, 63%) as a cream solid. Analytically pure material was obtained by further chromatography over silica gel (5% MeOH/CH2Cl2) to give pale yellow needles. 1H NMR (DMSO) δ 10.09 (1H, brs), 9.40 (1H, s), 8.48 (1H, s), 8.13 (2H, d, J=8.2 Hz), 7.74 (2H, d, J=8.7 Hz), 6.72 (2H, brs), 6.40 (1H, s)

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 2.03 mmol, 390 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 4-aminobenzotrifluoride hydrochloride | 2.02 mmol, 0.40 g | Cl.NC1=CC=C(C=C1)C(F)(F)F
reactant | 4-aminobenzotrifluoride | 10.0 mmol, 1.61 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 7-amino-4-(4-trifluoromethylanilino)pyrido[4,3-d]pyrimidine | 390 mg, 63% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC=C(C=C1)C(F)(F)F | C14H10F3N5
